US06391874B1
(1-Benzyl-1H-indazol-5-yl)-(6-bromoquinazolin-4-yl)-amine (Procedure A)
6-Bromo-4-chloroquinazoline (5.0 g) was reacted with 5-amino-1-benzyl-1H-indazole (5.0 g) in acetonitrile (100 ml) at 100° C. The resulting precipitate was treated with triethylamine in ethyl acetate and water to give the title compound as a yellow solid, (7.37 g); δH [2H6]-DMSO 9.93(1H,s), 8.82 (1H,d), 8.52(1H,s), 8.19(1H,s), 8.09(1H,s), 7.92(1H,dd), 7.65(3H,m), 7.25(5H,m), 5.62(2H, s),

reactant | 6-Bromo-4-chloroquinazoline | 5.0 g | BrC=1C=C2C(=NC=NC2=CC1)Cl | C8H4BrClN2
reactant | 5-amino-1-benzyl-1H-indazole | 5.0 g | NC=1C=C2C=NN(C2=CC1)CC1=CC=CC=C1 | C14H13N3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (1-Benzyl-1H-indazol-5-yl)-(6-bromoquinazolin-4-yl)-amine | 7.37 g | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)Br | C22H16BrN5
